US09079866B2
4′-(5-Amino-3-cyanopyrazin-2-yl)-3′-fluoro-N-(2-hydroxyethyl)-4-(trifluoromethyl)biphenyl-2-sulfonamide
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile and 2-bromo-N-(2-hydroxyethyl)-5-(trifluoromethyl)benzenesulfonamide. MS (ESI): mass calcd. for C20H15F4N5O3S, 481.08; m/z found, 482.1 [M+H]+. 1H NMR (600 MHz, DMSO-δ6) δ 8.35-8.31 (m, 1H), 8.26 (s, 1H), 8.10-8.05 (m, 1H), 7.91-7.86 (m, 1H), 7.71 (d, J=7.9, 1H), 7.68-7.63 (m, 1H), 7.46 (dd, J=10.9, 1.7, 1H), 7.43-7.36 (m, 3H), 4.75 (t, J=5.4, 1H), 3.40-3.33 (m, 2H), 2.88-2.78 (m, 2H).

reactant | 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C17H18BFN4O2
reactant | 2-bromo-N-(2-hydroxyethyl)-5-(trifluoromethyl)benzenesulfonamide | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NCCO | C9H9BrF3NO3S
product | 4′-(5-Amino-3-cyanopyrazin-2-yl)-3′-fluoro-N-(2-hydroxyethyl)-4-(trifluoromethyl)biphenyl-2-sulfonamide | NC=1N=C(C(=NC1)C1=C(C=C(C=C1)C=1C(=CC(=CC1)C(F)(F)F)S(=O)(=O)NCCO)F)C#N | C20H15F4N5O3S
